US04154737
A reaction flask was equipped as in Example 1. To a solution of maleic anhydride (1.12 parts) in 5.6 parts acetone was added a solution of 1 part aniline, 0.375 part triethylamine, and 1.9 parts acetone over a 30-minute period. The resulting heterogeneous mixture was maintained at 40° C. for 30 minutes. Magnesium chloride hexahydrate (0.093 part) and 1.4 parts acetic anhydride were added all at once. The temperature was raised to 50° C. for 3 hours. The homogeneous mixture was cooled and 14 parts water added. The precipitated product was isolated by vacuum filtration, washed with water, and air dried. The crude product was recrystallized from ethanol/water (90/10 vol.) to yield 0.89 part N-phenyl maleimide, m.p. 84°-86° C.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | Magnesium chloride hexahydrate | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-phenyl maleimide | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
